US05886014
N-t-Butoxycarbonyl-N-methyl-4-methoxy-2-nitroaniline
A procedure similar to that described in Preparation 7 was repeated, except that 0.46 g of sodium hydride (as a 55% w/w dispersion in mineral oil), 15 ml of dehydrated dimethylformamide, 0.66 ml of methyl iodide and a solution of 1.9 g of N-t-butoxycarbonyl-4-methoxy-2-nitroaniline (prepared as described in Preparation 22) in 15 ml of dehydrated dimethylformamide were used, to give 2.0 g of the title compound having an Rf value=0.34 (on thin layer chromatography on silica gel; developing solvent: a 1:5 by volume mixture of ethyl acetate and hexane).

reactant | sodium hydride | 0.46 g | [H-].[Na+]
reactant | methyl iodide | 0.66 ml | CI | CH3I
reactant | N-t-butoxycarbonyl-4-methoxy-2-nitroaniline | 1.9 g | C(C)(C)(C)OC(=O)NC1=C(C=C(C=C1)OC)[N+](=O)[O-] | C12H16N2O5
solvent | dimethylformamide | 15 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 15 ml | CN(C=O)C | C3H7NO
product | N-t-Butoxycarbonyl-N-methyl-4-methoxy-2-nitroaniline | 2.0 g | C(C)(C)(C)OC(=O)N(C1=C(C=C(C=C1)OC)[N+](=O)[O-])C | C13H18N2O5
